US05004747
A stirred mixture of 2-(2-methylpropanoyl)benzoic acid (44.27 g) and tert-butanol (300 ml) was treated portionwise with potassium tert-butoxide (28.14 g) over 5 minutes at room temperature and the reaction mixture stirred for a further 10 minutes and then treated dropwise over 10 minutes with a solution of diethyl bromomalonate (55.1 g) in ethanol (200 ml). The stirred mixture was refluxed for 18 hours and then evaporated to dryness. The residue was treated with diethyl ether (400 ml) and washed with water (400 ml). The aqueous phase was re-extracted with diethyl ether (200 ml) and the combined ethereal extracts washed with water (200 ml), saturated aqueous sodium hydrogen carbonate solution (200 ml) and water (200 ml), dried over magnesium sulphate and evaporated to give crude 3,3-bis(ethoxycarbonyl)-4-hydroxy-4-isopropyl-3,4-dihydroisocoumarin (76 g) as an amber oil.

reactant | 2-(2-methylpropanoyl)benzoic acid | 44.27 g | CC(C(=O)C1=C(C(=O)O)C=CC=C1)C | C11H12O3
reactant | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butoxide | 28.14 g | CC(C)([O-])C.[K+]
reactant | diethyl bromomalonate | 55.1 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,3-bis(ethoxycarbonyl)-4-hydroxy-4-isopropyl-3,4-dihydroisocoumarin | 76 g | C(C)OC(=O)C1(OC(=O)C2=CC=CC=C2C1(C(C)C)O)C(=O)OCC | C18H22O7
